US07220862B2
(±)-2-Amino-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-propionic acid methyl ester
To a flame dried 500 mL of round bottom flask was added 2-benzyloxycarbonylamino-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-acrylic acid methyl ester (2.24 h, 4.36 mmol), methanol (100 mL) and 10% palladium on charcoal (0.52 g). The mixture was degassed and purged with hydrogen five times. It was stirred at room temperature for 1 h and filtered through a pad of celite. Solvents were removed and the residue was subjected to flash chromatography using ethyl acetate/hexanes (1:1 and 2:1) containing 1% triethylamine to afford the tile compound as a colorless viscous liquid (1.27 g, 76%), which solidified upon cooling.

reactant | 2-benzyloxycarbonylamino-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-acrylic acid methyl ester | 4.36 mmol | COC(C(=CC=1C=C2C=CN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C25H30N2O6SSi
catalyst | palladium on charcoal | 0.52 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | (±)-2-Amino-3-[1-(2-trimethylsilanyl-ethanesulfonyl)-1H-indol-5-yl]-propionic acid methyl ester | 1.27 g, 76% | COC(C(CC=1C=C2C=CN(C2=CC1)S(=O)(=O)CC[Si](C)(C)C)N)=O | C17H26N2O4SSi
